US04082751
To a warm, stirred solution of 2-n-propoxybenzamide (896 g., 5.0 moles) in 1,2-dichloroethane (5 l) was added dimethyl sulfate (950 ml., 10.0 moles) over a period of about 0.5 hour. The mixture was stirred and heated under reflux for 17 hours. The solvent was removed. The residual oily solid was collected by filtration, washed with ethyl acetate and dried to give methyl 2-n-propoxybenzimidate methyl sulfate (403 g.), m.p. 79°-82°. The combined filtrate and washings were stored at 0° for 18 hours and gave a second crop (503 g.) of benzimidate, m.p. 81°-83°. A slurry of the methyl 2-n-propoxybenzimidate methyl sulfate (906 g.) in ethanol (1 l) was added to ethanol ( 4 l) which had previously been saturated with gaseous ammonia. The mixture was stored at room temperature for 17 hours. The mixture was filtered. The filtrate was evaporated to dryness to give 2-n-propoxybenzamidine methyl sulfate (872 g., 60%), m.p. 86°-88°.

reactant | methyl 2-n-propoxybenzimidate methyl sulfate | 906 g | COS(=O)(=O)O.C(CC)OC1=C(C(OC)=N)C=CC=C1
reactant | ammonia | N | H3N
solvent | ethanol | 1 l | C(C)O | C2H6O
solvent | ethanol | 4 l | C(C)O | C2H6O
product | 2-n-propoxybenzamidine methyl sulfate | 872 g, 60% | COS(=O)(=O)O.C(CC)OC1=C(C(=N)N)C=CC=C1 | InChI=1S/C10H14N2O.CH4O4S/c1-2-7-13-9-6-4-3-5-8(9)10(11)12;1-5-6(2,3)4/h3-6H,2,7H2,1H3,(H3,11,12);1H3,(H,2,3,4)
